US06515011B2
3-Phenyl-D,L-proline was prepared from diethyl-3-phenylpyrrolidine-2,2-dicarboxylate (2.82 g, 9.70 mmol) essentially according to the procedure described in U.S. Pat. No. 4,060,603 for the preparation of 3,3-dimethyl-D,L-proline from 2,2-dicarboethoxy-3,3-dimethylpyrrolidine. The product was isolated as a brown oil. LCMS RT=0.62 min. LCMS (M+H)=191.9. 1H NMR (CD3OD, 400 MHz): δ 7.36-7.28 (m, 5H), 4.60 (d, J=9.2 Hz, 1H), 3.97 (apparent q, J=8.4 Hz, 1H), 3.77-3.71 (m, 1H), 3.48-3.41 (m, 1H), 2.58-2.50 (m, 1H), 2.43-2.33 (m, 1H).

reactant | diethyl-3-phenylpyrrolidine-2,2-dicarboxylate | 9.70 mmol, 2.82 g | C(C)OC(=O)C1(NCCC1C1=CC=CC=C1)C(=O)OCC | C16H21NO4
reactant | 3,3-dimethyl-D,L-proline | CC1(C(NCC1)C(=O)O)C | C7H13NO2
reactant | 2,2-dicarboethoxy-3,3-dimethylpyrrolidine | C(=O)(OCC)C1(NCCC1(C)C)C(=O)OCC | C12H21NO4
product | 3-Phenyl-D,L-proline | C1(=CC=CC=C1)C1C(NCC1)C(=O)O | C11H13NO2
